US06489344B1
1 mmol of 2-bromo-1-(4-ethylphenyl)ethan-1-one in acetonitrile was added drop wise to 5.5 mmol imidazoline in acetonitrile at room temperature for fourteen hours. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate and dried over sodium sulfate to obtain 1-(4-ethylphenyl)-2-imidazolylethan-1-one.

reactant | 2-bromo-1-(4-ethylphenyl)ethan-1-one | 1 mmol | BrCC(=O)C1=CC=C(C=C1)CC | C10H11BrO
reactant | imidazoline | 5.5 mmol | N1C=NCC1 | C3H6N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-ethylphenyl)-2-imidazolylethan-1-one | C(C)C1=CC=C(C=C1)C(CC=1NC=CN1)=O | C13H14N2O
